Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
Found on ground
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ is a ___ female hx Dementia who presents to ___ on ___ with a mild TBI. Pt was found seated on 
the
floor by her bedside at her living facility when staff entered
the room for morning rounds.  She c/o pain all over but was
unable to convey events. She is oriented x1 to self at baseline. 

She was taken to OSH where head CT demonstrated right acute SDH
and she was transferred to ___ for further evaluation. She is
unable to recall events. She denies HA, nausea, vomiting, vision
changes. She endorses pain in right knee and leg and right
shoulder.
 
Past Medical History:
CHF, HTN, duodenal ulcer, chronic anemia, osteoporosis, OA,
Metabolic Encephalopathy, UTI, Hemorrhoids
Code status: DNR/DNR per MOLST form
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
ON ADMISSION:
============

Physical Exam:

O:  T: 97.2  HR:102  BP: 187/98  RR:16  Sat:97% RA   
GCS at the scene: 14

GCS upon Neurosurgery Evaluation:14   Time of evaluation:11:00

Airway: [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [x]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:

Gen: WD/WN, comfortable, NAD.
HEENT: Normocephalic, no lacerations or hematomas
Neck: supple, no midline spinal tenderness
Extrem: warm and well perfused; Right knee, upper leg and hip
pain with palpation, right shoulder and upper arm pain with
palpation

Neuro:

Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person only. Responds "I don't know to
other orientation questions, states ___ for year.

Language: Speech is fluent. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3
mm bilaterally. Visual fields appear full but patient has
difficulty following.
III, IV, VI: Extraocular movements with limited upgaze
bilaterally without nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
decreased bulk and normal bilaterally. No abnormal movements,
tremors. 

No Drift
Motor:
      Trap Deltoid Bicep Tricep Grip
Right  5    4      5     4+     5
Left   5    4+     5     4+     5  

       IP Quad Ham AT ___
Right  4+  5   4+  ___
Left   4+  5   4+  ___

Sensation: Intact to light touch

ON DISCARGE:
============

EXAM

GCS: 13
Time of evaluation: 08:00AM

Airway: [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [x]3 Opens eyes to voice (sleeping) 
 [ ]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [x]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

GCS Total: 13

Exam:

*Per patient's daughter, patient is at her baseline

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious [ ]None

Orientation: [x]Person [ ]Place [ ]Time  [ ]None

Follows commands: [x]Simple [ ]Complex [ ]None

Pupils:  PERRL 3-2mm 

EOM: [ ]Full [ ]Restricted  [x]Tacks examiner in all directions 

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [ ]No - UTA, patient will not participate  


Speech Fluent: [x]Yes [ ]No

Comprehension intact [ ]Yes [x]No - dementia and confused at
baseline 

Motor:
Patient will not participate in full motor exam, but moves
everything to command antigravity. 

 
Pertinent Results:
Please refer to OMR for pertinent imaging and lab results. 
 
Brief Hospital Course:
#Right Subdural Hematoma
___ was admitted to ___ neurosurgery ___ with 
acute right subdural hematoma. Patient was neurologically at her 
baseline on admission. She was started on Keppra 500mg BID x 7 
days for seizure prophylaxis. Home aspirin was held 
indefinitely.  Repeat NCHCT was done in ED on night of admission 
and SDH remained stable. She was admitted to ___ for close 
neurologic monitoring. On ___, patient remained stable. Her labs 
and vitals were WNL and patient was made floor status. She 
continued to remain at her neuro baseline and was medically 
stable for discharge back to her SNF on ___. 

#Acute agitation and delirium 
Patient with acute agitation and delirium secondary to dementia. 
Patient would not participate in full exams, yet appeared to be 
at baseline per her daughter. At times, when trying to examine 
patient she would become physically aggressive towards staff. 
Geriatrics was consulted and delirium precaution recommendations 
were given and appreciated. Patient remained stable. 

#UTI 
Patient was being treated for UTI on admission with Macrobid. 
Repeat UA in ED was still positive, therefore Macrobid was 
discontinued and ceftriaxone was started for 3 days. Urine 
cultures resulted with mixed flora consistent with skin 
contamination. She completed her ceftriaxone course despite as 
she got her last dose on day the cultures resulted. She remained 
afebrile. 
 
Medications on Admission:
Medications:
Anticoagulants [ ]No [x]Yes Name:ASA 81mg Dose:    Last
Taken:unclear as it is listed as an allergy
Indication: unknown

metoprolol succinate ER 25 mg Daily,  
omeprazole 20 mg delayed release Daily 
furosemide 20 mg Daily
isosorbide mononitrate ER 30 mg daily 
calcium carbonate 600 mg calcium (1,500 mg) tablet daily 
Ferrex ___ mg daily
nitrofurantoin 100 mg Twice Daily till ___ 
trazodone 12.5mg every morning 
trazodone 12.5mg Once Daily, as needed 
mirtazapine 7.5mg Once Daily, at bedtime 
acetaminophen 325 mg capsule oral 2 capsule(s) Three times 
daily,
as needed 
aspirin 81 mg capsule,delayed release Once Daily 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  LevETIRAcetam 500 mg PO BID 
End Date: ___  
3.  Lidocaine 5% Patch 1 PTCH TD QAM  
4.  Mirtazapine 7.5 mg PO QHS  
5.  Calcium Carbonate 1500 mg PO DAILY  
6.  Furosemide 20 mg PO DAILY  
7.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute Right Subdural Hematoma 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Discharge Instructions
Brain Hemorrhage without Surgery

Activity
- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.

- You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

- No driving while taking any narcotic or sedating medication. 

- If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

- No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications

- Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 

- You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 

- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:

- You may have difficulty paying attention, concentrating, and 
remembering new information.

- Emotional and/or behavioral difficulties are common. 

- Feeling more tired, restlessness, irritability, and mood 
swings are also common.

- Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:

- Headache is one of the most common symptom after a brain 
bleed. 

- Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

- Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 

- There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:

- Severe pain, swelling, redness or drainage from the incision 
site. 

- Fever greater than 101.5 degrees Fahrenheit

- Nausea and/or vomiting

- Extreme sleepiness and not being able to stay awake

- Severe headaches not relieved by pain relievers

- Seizures

- Any new problems with your vision or ability to speak

- Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

- Sudden numbness or weakness in the face, arm, or leg

- Sudden confusion or trouble speaking or understanding

- Sudden trouble walking, dizziness, or loss of balance or 
coordination

- Sudden severe headaches with no known reason

 
Followup Instructions:
___